US06995175B2
A solution of 25 mg of 1,4-phenylene diisocyanate and 62.8 mg of 6-amino-4-dimethylamino-2-methylquinoline in 1 mL of dimethylformamide is stirred at a temperature in the region of 20° C. for 5 hours. 2 mL of dimethylformamide, 218 mg of polystyrene-isocyanate resin (Argonaut, 1.49 mmol/g) and 42 mg of polystyrene-trisamine resin (Argonaut, 3.75 mmol/g) are then added to the reaction mixture. The suspension obtained is stirred at a temperature in the region of 20° C. for 17 hours, filtered on sintered glass, and then the solid residue is washed with 10 mL of a dichloromethane-methanol (90-10 by volume) mixture. The filtrate obtained is concentrated under air stream at a temperature in the region of 50° C. 42.4 mg of 1-(4-dimethylamino-2-methylquinolin-6-yl)-3-{4-[3-(4-dimethylamino-2-methylquinolin-6-yl)ureido]phenyl}urea are thus obtained in the form of a yellow solid.

reactant | 1,4-phenylene diisocyanate | 25 mg | C1(=CC=C(C=C1)N=C=O)N=C=O | C8H4N2O2
reactant | 6-amino-4-dimethylamino-2-methylquinoline | 62.8 mg | NC=1C=C2C(=CC(=NC2=CC1)C)N(C)C | C12H15N3
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 1-(4-dimethylamino-2-methylquinolin-6-yl)-3-{4-[3-(4-dimethylamino-2-methylquinolin-6-yl)ureido]phenyl}urea | 42.4 mg | CN(C1=CC(=NC2=CC=C(C=C12)NC(=O)NC1=CC=C(C=C1)NC(=O)NC=1C=C2C(=CC(=NC2=CC1)C)N(C)C)C)C | C32H34N8O2
